data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6233,"CC(C)CC(N[C:1](=[OH+:2])[O:3][C:4](C)(C)C)C(=O)NC1CCCC1.O=C([O-])C(F)(F)F.[Cl-]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8244,"CC[CH+:1][CH:2](C)[H:3].CC[OH:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5466,"C1=CC=[NH+]C=C1.CC(C)(C)[Si-:1](C)(C)(OCCC1CC=CC1O)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,3772,"CC(C)(C)C(=O)[O-].CC12COC(=O)C1(C)C(O[Si](C)(C)C(C)(C)C)C=C2C[OH:1].CCO.CCO[C:2](C)=[O+:3]CC|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1039,"CCOC(=O)[CH:1]([H:2])[C:3](C)=[O:4].O.[Na+].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1664,"COC(=O)C1C(C2=CC=CC=C2)NC(=O)[N+:1](C)([H:2])C1(O)C1=CC=CC=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7013,"CS(=O)(=O)[O:1][H:2].C[Si](C)(C)C[C:3]#[CH:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6207,"C1CC[C:1](=[O:2])CC1.CC(C)(C)O.CCO[C:3](=[CH:4]Cl)[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6117,"CCCOC(=O)CNP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[OH+:1][H:2].N#N.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7324,"CC(=O)CC[CH:1]=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5905,"CC12CCC[C:1](=[S:2])[N:3]1C(C1=CC=CC=C1)CO2.CCOC(=O)[CH2:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1044,"O.O=C1C[NH+](CC(=O)[O-:1])[Mg:2][O]1|(1, 2)"
train,pmechdb_split_0,0,6508,"CC[N+]1=C(C(C[CH:1]=[C:2](C)[O-:3])(C2=CC=C(C)C=C2)[O:4][H:5])SC(CCO)=C1C.CC[NH+](CC)CC.[Br-]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,10161,"N[CH:1]=[NH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,4678,"C[C+](C)C.O=C(NC1CCCCC1)C(CC1=CC=CC=C1)[NH2+:1][C:2](=O)[O-:3].O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7170,"C[CH:1]([CH-:2][N+](=O)[O-])[OH:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7246,"CCOC(=O)C[CH2:1][O:2]S(=O)Cl.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10375,"C1=CC=C([NH+:1]=[C:2]2CCCC[CH:3]2[H:4])C=C1.CC(=O)[O-:5].O|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7315,"C=C[C:1](Cl)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,862,"O=S(=O)(O)[C:1]1([H:2])C=CC=C(C(Cl)(Cl)Cl)[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,916,"C1=CC=C(C[NH:1][C:2]2([OH2+:3])CCCCCCC2)C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9383,"COC(=O)C1C2=C(C=C(OC)C=C2)C2(C3=CC=CC=C3)C1CCC(O)=[N:1]2.CS(=O)(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1618,"CC[NH-:1].[H:2][CH:3]=[CH:4][Br:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5302,"CC(=O)OC(=O)CC[C:1](Cl)=[O:2].CC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1176,"CN[C:1](Cl)=[O:2].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7499,"CC[O:1][C:2](CCC(=O)N(C)C)(OC)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8165,"CC[N+](=CC=C(C)C)CC.CC[NH:1]CC.O=C1CCC[C:2](=[OH+:3])[CH:4]1[H:5]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,8282,"C[NH+:1]=[CH2:2].[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2075,"CCCCCC1CC(C)C(OC(C)=[O:1])[CH:2]([O:3]S(=O)(=O)C2=CC=C(C)C=C2)C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2957,"CCCC[B-:1](CCCC)([O+]=C(C)CC(OCC1=CC=C(OC)C=C1)C(C)C)[O:2]S(=O)(=O)C(F)(F)F.CCN(C(C)C)C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,6256,"CC(C)CCCC(C)C1CCC2C3CCC4CC(O)CCC4(C)C3CCC12C.CCCCCCCCCCCCOC1=CC=C(C(=O)[O:1][H:2])C=C1.CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:3]C(=O)OCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4517,"C[Si](C)(C)C[C:1]#[CH:2].C[Si](C)(C)[O+:3](C)[I:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1223,"CC1=CC=C(S(=O)(=O)[O:1][CH3:2])C=C1.CCC(CO)[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1127,"CC(C)CC(C(=O)NC1CCCC1)[NH2+:1][C:2](=O)[O-:3].C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10429,"CC1=CC=C(CC(C2=CC=CC=C2)[O:1][H:2])C=C1.N#CC(C1=CC=CC=C1)(C(O)(CC1=CC=CC=C1)C1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4467,"CCCC[B-:1]([OH2+])(CCCC)[OH+:2]C(CCC1=CC=CC=C1)CC(=O)CC(OCC1=CC=C(OC)C=C1)C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,3721,"CC(=O)[O:1][H:2].CC1=CC=C(C2=CC(C(=O)CCC(C)(N)[OH:3])=CC(C3=CC=C(C)N3)=C2)N1.O=C[O-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7193,"CS(=O)[CH2-:1].C[P+](C)(C)[CH2:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4005,"C1=CC=[N:1]C=C1.O=C(NC1N2C=CC=C2C(=O)N2CCCC12[C:2]([N:3](I(OC(=O)C(F)(F)F)C1=CC=CC=C1)[H:4])=[O:5])OCC1=CC=CC=C1.O=C([O-])C(F)(F)F|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,2587,"CO[C:1]([CH:2]=[CH:3]C)=[O:4].O[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,3848,"CN[CH+:1][O:2]C|(2, 1)"
train,pmechdb_split_0,0,3481,"C=[C+]C[Si:1](C)(C)C.C[O:2][Ti-]([Cl])([Cl])([Cl])[Cl]|(2, 1)"
train,pmechdb_split_0,0,2905,"N#CC1=CO[CH:1]=[CH:2]1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,2611,"C[O-:1].OC1CC[C:2](=[O:3])[CH:4]1[H:5]|(1, 5);((5, 4), 2);((2, 3), 3)"
